US06172085B2
Tert-butyl [2-[2-[4-[2-(diphenylmethoxy)ethyl]-1-piperidinyl]ethyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate
Using tert-butyl [2-(2-bromoethyl)-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate and 4-(2-(diphenylmethoxy)ethyl]piperidine, the procedure of Reference Example 58 was otherwise repeated to provide the title compound. Yield 83%.

reactant | tert-butyl [2-(2-bromoethyl)-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | BrCCC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C | C19H28BrNO3
reactant | 4-(2-(diphenylmethoxy)ethyl]piperidine | C1(=CC=CC=C1)C(OCCC1CCNCC1)C1=CC=CC=C1 | C20H25NO
product | Tert-butyl [2-[2-[4-[2-(diphenylmethoxy)ethyl]-1-piperidinyl]ethyl]-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-5-yl]carbamate | Yield 83% | C1(=CC=CC=C1)C(OCCC1CCN(CC1)CCC1(OC2=C(C1)C(=C(C(=C2C)C)NC(OC(C)(C)C)=O)C)C)C2=CC=CC=C2 | C39H52N2O4
